US06930120B2
2-(4-Methoxyphenoxy)-propionic acid ethyl ester
4-Methoxyphenol (3.29 g, 26.5 mmol), K2CO3 (7.32 g, 53 mmol), and ethyl 2-bromopropionate (4.8 g, 26.5 mmol) were combined in anhydrous DMF (50 mL) and stirred at 90° C. under an atmosphere of nitrogen. After 16 h, the DMF was removed in vacuo. The residue was dissolved in ethyl acetate (100 mL) and washed twice with water and once with brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to produce a golden oil (4.8 g, 81%) 1H NMR (250 MHz, CDCl3): δ 6.76 (d, 2H, J=7.9), 6.73 (d, 2H, J=7.9), 4.58 (q, 1H, J=6.1), 4.14 (q, 2H, J=7.2), 3.69 (s, 3H), 1.52 (d, 3H, J=6.1), 1.19 (t, 3H, J=7.2). MS [EI+] 225 (M+H)+, [EI−] 223 (M−H)+.

reactant | 4-Methoxyphenol | 26.5 mmol, 3.29 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | K2CO3 | 53 mmol, 7.32 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromopropionate | 26.5 mmol, 4.8 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(4-Methoxyphenoxy)-propionic acid ethyl ester | 4.8 g, 81% | C(C)OC(C(C)OC1=CC=C(C=C1)OC)=O | C12H16O4
